US07129238B2
To a solution of (RS)-(2,6-difluoro-3-hydroxy-phenyl)-ethoxy-acetic acid (12.0 g) in DMF (600 ml) was added [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride [Prepared according to Ch. Lila, Ph. Gloanec, L. Cadet, Y. Hervé, J. Fournier, F. Leborgne, T. J. Verbeuren, G. De Nanteuil, Synthetic Communications 1998, 28, 23, 4419–4429] (18.2 g) and 1-hydroxybenzotriazole. The mixture was cooled to 0–5° C. and EDC (15.8 g) and trietylamine (62 ml) were added. The mixture was stirred 1 h at 0–5° C. and over night at rt. The solvent was evaporated and the residue was dissolved in CH2Cl2 and washed with H2O (600 ml), and brine (300 ml). The aqueous layers were extracted with more CH2Cl2 (2×300 ml). The combined organic layers were dried (Na2SO4) and the solvent was evaporated. CC(CH2Cl2/2 N NH3 in MeOH 97:3 to 19:1) afforded 10.2 g (40%) of (RS)-[(4-{[2-(2,6-difluoro-3-hydroxy-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester. White foam. MS 498.2 ([M+H]+).

reactant | (RS)-(2,6-difluoro-3-hydroxy-phenyl)-ethoxy-acetic acid | 12.0 g | FC1=C(C(=CC=C1O)F)C(C(=O)O)OCC | C10H10F2O4
reactant | [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride | 18.2 g | Cl.Cl.C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CN)=O
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 15.8 g
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
solvent | trietylamine | 62 ml | C(C)N(CC)CC | C6H15N
product | (RS)-[(4-{[2-(2,6-difluoro-3-hydroxy-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester | 10.2 g, 40% | C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CNC(C(OCC)C1=C(C(=CC=C1F)O)F)=O)=O | C26H25F2N3O5
